US07332501B2
a) 5-Bromo-1′-methyl-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Butyllithium (97.2 ml of 1.47 M solution in hexane, 143 mmol) was added dropwise to a solution of 2,5-Dibromo-benzoic acid (20 g, 72 mmol) in dry THF (300 ml) at −78° C. over a period of 3.5 h under a nitrogen atmosphere. The reaction mixture was stirred at −78° C. for 2 h. A solution of N-methyl piperidone (11.31 g, 99 mmol) in hexane (40 mL) was added dropwise during 30 min to the reaction mixture at −78° C. The reaction mixture was allowed to come to room temperature and stirring was continued for overnight. The reaction mixture was added to a mixture of water (500 ml) and ether (300 mL). The aqueous layer was extracted with ether (5×150 mL) and acidified with concentrated HCl (to pH 2-3) and extracted with ether (2×150 ml). The acidic solution was boiled for 1 h and then cooled to 0-5° C. and made alkaline (to pH 9-10) with aqueous NaOH. The cold solution was rapidly extracted with chloroform (5×300 mL). The combined chloroform extracts were washed with water (150 ml), dried over sodium sulfate and evaporated under reduced pressure. The residue was purified was purified by silica gel (100-200) column chromatography eluting with methanol in dichloromethane (0.5% to 2.5%) to afford the desired product (4.2 g, 20%).

reactant | Butyllithium | 143 mmol, 1.47 M, 97.2 ml | C(CCC)[Li]
reactant | 2,5-Dibromo-benzoic acid | 72 mmol, 20 g | BrC1=C(C(=O)O)C=C(C=C1)Br | C7H4Br2O2
reactant | N-methyl piperidone | 99 mmol, 11.31 g | CN1C(CCCC1)=O | C6H11NO
reactant | water | 500 ml | O | H2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | hexane | 40 mL | CCCCCC | C6H14
solvent | ether | 300 mL | CCOCC | C4H10O
product | 5-Bromo-1′-methyl-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | 4.2 g, 20% | BrC1=CC2=C(C=C1)C1(CCN(CC1)C)OC2=O | C13H14BrNO2
